US07300907B2
A heterogeneous mixture of 3-bromo-6-chloro-2-fluorophenol (14.4 g, 0.064 mol), methyl iodide (13.5 g, 0.096 mol) and potassium carbonate (8.8 g, 0.064 mol) in acetonitrile (100 mL) was heated under reflux for two hours. The mixture was cooled, diluted with water (100 mL) and extracted with diethyl ether (2×150 mL). The combined extracts were dried and concentrated. The dark oil was purified by chromatography (5% ethyl acetate in hexanes) to give 1-bromo-4-chloro-2-fluoro-3-methoxybenzene (14.8 g, 0.062 mol) 1H NMR (CDCl3): δ 7.20 (m, 1H), 7.10 (dd, 1 H), 4.0 (s, 3H).

reactant | 3-bromo-6-chloro-2-fluorophenol | 0.064 mol, 14.4 g | BrC=1C(=C(C(=CC1)Cl)O)F | C6H3BrClFO
reactant | methyl iodide | 0.096 mol, 13.5 g | CI | CH3I
reactant | potassium carbonate | 0.064 mol, 8.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 1-bromo-4-chloro-2-fluoro-3-methoxybenzene | 0.062 mol, 14.8 g | BrC1=C(C(=C(C=C1)Cl)OC)F | C7H5BrClFO
